US05047430
To 1,4-diaminobutane (84.6 g) cooled with ice, acrylonitrile (50.9 g) was added dropwise. After the addition had been completed, the reaction mixture was stirred for 20 minutes under ice cooling, at 40° C. for one hour and at 100° C. for three hours in this order. The resultant mixture was purified by distillation under reduced pressure to obtain as colorless oil 1-(N-2-cyanoethyl)amino-4-aminobutane (66 g).

reactant | 1,4-diaminobutane | 84.6 g | NCCCCN | C4H12N2
reactant | acrylonitrile | 50.9 g | C(C=C)#N | C3H3N
product | 1-(N-2-cyanoethyl)amino-4-aminobutane | 66 g | C(#N)CCNCCCCN | C7H15N3
